US04154834
An intimate mixture of 5-(2-thienylmethyl)-2-methylthio-4-pyrimidone (1.43 g) and 2-(5-methyl- 4-imidazolylmethylthio)ethylamine (1.03 g) was heated at 140° for 6 hours. The cooled residue was washed with water to give 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(2-thienylmethyl)-4-pyrimidone, and this product was treated with dilute ethanolic HCl to give the title compound in 40% yield, m.p. 172°-176° (ethanol-acetonitrile). The dihydrochloride was passed down an ion-exchange column of IRA 400 eluting with 1 N hydrobromic acid, and the eluate was evaporated to dryness and recrystallised from ethanol acetonitrile to give the corresponding dihydrobromide m.p. 199°-203°.

reactant | 5-(2-thienylmethyl)-2-methylthio-4-pyrimidone | 1.43 g | S1C(=CC=C1)CC=1C(NC(=NC1)SC)=O | C10H10N2OS2
reactant | 2-(5-methyl- 4-imidazolylmethylthio)ethylamine | 1.03 g | CC1=C(N=CN1)CSCCN | C7H13N3S
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(2-thienylmethyl)-4-pyrimidone | CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC=1SC=CC1 | C16H19N5OS2
